US07119073B2
2.0 g of tryptamine (12.5 mmol) were dissolved in DCM (50 mL) and treated in one portion with triethylamine (1.74 mL. 12.5 mmol, 1 eq) and trityl chloride (3.44 g, 12.3 mmol). The resulting solution was stirred for 24 h at room temperature while protected from light. Volatiles were evaporated and the residue treated with aqueous HCl (1 N). The solid formed was filtered and washed with small portions of ether then dissolved in aqueous sodium hydrogen-carbonate and extracted into DCM. The organic layer was dried and evaporated to give 4.48 g (89% ) of 3-(N-trityl-(2-aminoethyl))-indole, which was used without further purification.

reactant | tryptamine | 12.5 mmol, 2.0 g | NCCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | triethylamine | 12.5 mmol, 1.74 mL, 1 eq | C(C)N(CC)CC | C6H15N
reactant | trityl chloride | 12.3 mmol, 3.44 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 3-(N-trityl-(2-aminoethyl))-indole | 4.48 g, 89% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NCCC1=CNC2=CC=CC=C12 | C29H26N2
